US07081539B2
Water is removed by distillation from the above mixture of 1,2-benzisoxazole-3-acetic acid and 1,2-dichloroethane, and thereto is added dropwise chlorosulfonic acid (15.5 g) while the internal temperature is kept at 63° C.–79° C. After the addition, the mixture is stirred for 90 minutes while the reaction temperature is kept at 63° C.–79° C. After cooling, a 25% aqueous sodium hydroxide solution is added to the reaction mixture so as to adjust the pH value thereof to pH 11 or above. Water is removed by distillation from the reaction mixture to give a mixture of sodium 1,2-benzisoxazole-3-methanesulfonate and 1,2-dichloroethane. Triethylamine (2.4 g) and phosphoryl chloride (17.5 g) are added to this mixture, and the mixture is stirred at a temperature of 77° C.–83° C. for 6 hours. After cooling, to the reaction mixture is added 1,2-dichloroethane (80 ml), and ammonia gas is blown into the mixture until saturated while the reaction temperature is kept at 30° C.–60° C. The reaction mixture is concentrated, and water is added thereto. The mixture is stirred, and the precipitated crystals are collected by filtration, and washed with water to give crude crystals of 1,2-benzisoxazole-3-methanesulfonamide. The purity of the crude crystals is 96%.

reactant | sodium 1,2-benzisoxazole-3-methanesulfonate | O1N=C(C2=C1C=CC=C2)CS(=O)(=O)[O-].[Na+]
reactant | phosphoryl chloride | 17.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
solvent | Triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
product | 1,2-benzisoxazole-3-methanesulfonamide | O1N=C(C2=C1C=CC=C2)CS(=O)(=O)N | C8H8N2O3S
